data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3689,4210,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:12]([C:13]#[N:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:11]=[CH:10]1,water,298.15,14.140750361390335,-37.10525766068425
1845,2047,[CH3:18][NH:19][C:20](=[O:21])[N-:22][N+:23]#[C:24][C:25](=[O:26])[O:27][CH3:28].[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([O:10][CH3:11])([O:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[c:7]2[c:8]([n:22]([C:20]([NH:19][CH3:18])=[O:21])[n:23][c:24]2[C:25](=[O:26])[O:27][CH3:28])[C:9]([O:10][CH3:11])([O:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1,water,298.15,12.923544443739546,-85.97384285754751
2906,3229,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][N:6]=[N+:7]([CH3:8])[NH-:9]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[NH:9][N:7]([CH3:8])[N:6]1[CH3:5],water,298.15,33.596475828939646,-6.179209323787623
111,127,[CH3:13][CH-:14][N+:15]#[N:16].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:14]([CH3:13])[N:15]=[N:16]2,water,298.15,14.019705162336884,-27.813302453953447
3441,3911,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]([CH3:10])=[N+:11]([CH3:12])[C-:13]([CH3:14])[C:15]([CH3:16])=[O:17]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:13]([CH3:14])([C:15]([CH3:16])=[O:17])[N:11]([CH3:12])[C:9]1([C:7]([NH:6][CH3:5])=[O:8])[CH3:10],water,298.15,30.11521071652453,-28.72376752086973
1606,1775,[CH3:16][CH:17]=[N+:18]([CH3:19])[C-:20]([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[O:26][CH3:27].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:21]([CH3:22])=[O:23])([C:24](=[O:25])[O:26][CH3:27])[N:18]([CH3:19])[CH:17]2[CH3:16],water,298.15,23.09678338120049,-36.78644252868276
1706,1887,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([F:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1.[CH:18]#[N+:19][C-:20]([C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[O:27][CH3:28]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([F:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[CH:18]=[N:19][C:20]2([C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[O:27][CH3:28],water,298.15,13.10910689902582,-57.26359898834421
3372,3831,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C:10]#[N+:11][CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([C:8]([CH3:7])=[O:9])=[N:11][CH:12]1[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,17.16573278556259,-33.53903738731292
888,961,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[C:17]([CH3:18])[C:19]#[N:20])[C:21]([CH3:22])=[O:23].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:21]([CH3:22])=[O:23])[O:16][C:17]2([CH3:18])[C:19]#[N:20],water,298.15,9.183695845773071,-49.19298130557544
1638,1809,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[C-:21]([CH3:22])[C:23](=[O:24])[NH:25][CH3:26].[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:21]([CH3:22])([C:23](=[O:24])[NH:25][CH3:26])[N:19]([CH3:20])[C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:16]([CH3:17])=[O:18],water,298.15,39.637813473529306,-16.791206567196785
2231,2473,[CH3:16][O:17][C:18](=[O:19])[C:20]([C:21]([CH3:22])=[O:23])=[N+:24]([CH3:25])[N-:26][c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[NH:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[NH:9][CH3:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[N:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:24]([CH3:25])[C:20]3([C:18]([O:17][CH3:16])=[O:19])[C:21]([CH3:22])=[O:23],water,298.15,18.95614802938752,-29.550688494908343
3683,4204,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[N:7]#[C:8][c:9]1[nH+:10][c-:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[c:18](=[O:19])[o:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:9]2([C:8]#[N:7])[NH:10][C:11]1([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[C:18](=[O:19])[O:20]2,water,298.15,26.67498418851281,2.7361361370704715
